US08383639B2
N-(4-Fluorobenzyl)formohydrazide.
To a solution of tert-butyl 2-(4-fluorobenzyl)-2-formylhydrazinecarboxylate (0.11 g, 0.410 mmol, 1.0 equiv) in CH2Cl2 (1.02 mL) was added TFA (1.02 mL). Gas evolution was observed. After stirring 30 min, the reaction was poured into a saturated aqueous solution of NaHCO3 and extracted with CH2Cl2 (×3). The combined CH2Cl2 extracts were dried (Na2SO4) and then concentrated in vacuo to provide the title compound (0.056 g, 81% yield) as a viscous yellow oil. 1H NMR (400 MHz, CDCl3) δ ppm (first tautomer) 8.24 (s, 1H), 7.18-7.31 (m, 2H), 7.00-7.14 (m, 2H), 4.47 (s, 2H), 4.11 (s, 2H), (second tautomer) 8.37 (s, 1H), 7.18-7.31 (m, 2H), 7.00-7.13 (m, 2H), 4.62 (s, 2H), 3.63 (s, 2H); LCMS (ES+, (M+H)+) m/z 169.27.

reactant | tert-butyl 2-(4-fluorobenzyl)-2-formylhydrazinecarboxylate | 0.410 mmol, 0.11 g, 1.0 equiv | FC1=CC=C(CN(NC(=O)OC(C)(C)C)C=O)C=C1 | C13H17FN2O3
reactant | TFA | 1.02 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 1.02 mL | C(Cl)Cl | CH2Cl2
product | N-(4-Fluorobenzyl)formohydrazide | 0.056 g, 81% yield | FC1=CC=C(CN(N)C=O)C=C1 | C8H9FN2O
